US07511035B2
(h) 8-ethenyl-7-fluoro-2-(methyloxy)-1,5-naphthyridine
To a solution of 8-bromo-7-fluoro-2-(methyloxy)-1,5-naphthyridine (2.0 g, 7.81 mmol), potassium carbonate (1.08 g, 7.81 mmol), tetrakis-triphenylphosphine (90 mg, 0.08 mmol) in DME (60 mL) and H2O (20 mL) was added 2,4,6-trivinylcycloborane-pyridine complex (0.94 g, 3.91 mmol). After stirring for 10 h at 85° C. the reaction contents were concentrated and the product purified by chromatography (silica, 25% EtOAc in hexane) to give a low melting solid (1.43 g, 90%).

reactant | 8-bromo-7-fluoro-2-(methyloxy)-1,5-naphthyridine | 7.81 mmol, 2.0 g | BrC=1C(=CN=C2C=CC(=NC12)OC)F | C9H6BrFN2O
reactant | potassium carbonate | 7.81 mmol, 1.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | DME | 60 mL | COCCOC | C4H10O2
solvent | H2O | 20 mL | O | H2O
product | 8-ethenyl-7-fluoro-2-(methyloxy)-1,5-naphthyridine | 1.43 g, 90% | C(=C)C=1C(=CN=C2C=CC(=NC12)OC)F | C11H9FN2O
